US08623889B2
To a solution of triphosgene (22.7 mg, 0.0765 mmol) and N,N-diisopropylethylamine (0.20 mL, 1.1 mmol) in methylene chloride (4.0 mL, 62 mmol) was added a solution of N-(7-(5-amino-2-methylphenyl)isoquinolin-3-yl)cyclopropanecarboxamide (59.9 mg, 0.189 mmol) and N,N-diisopropylethylamine (0.10 mL, 0.57 mmol) in methylene chloride (2.0 mL, 31 mmol). The resulting mixture was stirred at room temperature for 5 minutes, and then morpholin-2-ylmethanol (37.5 mg, 0.320 mmol) was added. The reaction mixture was stirred at room temperature for an additional 30 minutes, and then filtered through silica which was rinsed with ethyl acetate, and evaporated in vacuo. The crude product was purified via reverse phase HPLC and lyophilized to yield 34.6 mg (40%) of N-(3-(3-(cyclopropanecarboxamido)isoquinolin-7-yl)-4-methylphenyl)-2-(hydroxymethyl)morpholine-4-carboxamide. LCMS (ESI): RT (min)=3.964, M+H=461.2, method=E; 1H NMR (400 MHz, DMSO-d6) δ 10.87 (s, 1H), 9.18 (s, 1H), 8.56 (s, 1H), 8.47 (s, 1H), 7.98 (s, 1H), 7.91 (d, J=8.5 Hz, 1H), 7.68 (d, J=8.5 Hz, 1H), 7.50-7.37 (m, 2H), 7.21 (d, J=8.2 Hz, 1H), 4.82 (t, J=5.5 Hz, 1H), 4.04 (d, J=12.9 Hz, 2H), 3.97-3.81 (m, 3H), 2.90 (t, J=6.0 Hz, 2H), 2.64 (dd, J=12.9, 10.0 Hz, 2H), 2.21 (s, 3H), 2.11-2.03 (m, 1H), 0.86 (m, 4H).

reactant | triphosgene | 0.0765 mmol, 22.7 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | N,N-diisopropylethylamine | 1.1 mmol, 0.20 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | methylene chloride | 62 mmol, 4.0 mL | C(Cl)Cl | CH2Cl2
reactant | N-(7-(5-amino-2-methylphenyl)isoquinolin-3-yl)cyclopropanecarboxamide | 0.189 mmol, 59.9 mg | NC=1C=CC(=C(C1)C1=CC=C2C=C(N=CC2=C1)NC(=O)C1CC1)C | C20H19N3O
reactant | N,N-diisopropylethylamine | 0.57 mmol, 0.10 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | methylene chloride | 31 mmol, 2.0 mL | C(Cl)Cl | CH2Cl2
reactant | morpholin-2-ylmethanol | 0.320 mmol, 37.5 mg | N1CC(OCC1)CO | C5H11NO2
product | N-(3-(3-(cyclopropanecarboxamido)isoquinolin-7-yl)-4-methylphenyl)-2-(hydroxymethyl)morpholine-4-carboxamide | 34.6 mg, 40% | C1(CC1)C(=O)NC=1N=CC2=CC(=CC=C2C1)C=1C=C(C=CC1C)NC(=O)N1CC(OCC1)CO | C26H28N4O4
